US04939066
Synthesis of 5-Phenyl-3-hydroxyisoxazole
200 ml of water and 300 ml of ethanol were added to 40 g of sodium hydroxide to dissolve the sodium hydroxide. 69.5 g of hydroxylamine hydrochloride was added thereto, and the pH of the solution was adjusted to 10.0 by adding a 2N sodium hydrochloride ethanol/water (3:2) solution mixture. Under cooling with ice, 192 g of ethyl benzoylacetate and a 2N sodium hydroxide in ethanol/water (3:2) solution mixture were added dropwise simultaneously to the reaction solution so that the pH of the reaction solution was 10±0.3. After completion of the addition and stirring for 3 hours at room temperature, the reaction mixture was poured to a mixture of 500 g of concentrated hydrochloric acid and 500 g of ice, then 2.5 liters of ethanol was added to the reaction mixture and after the reaction mixture was heated for 3 hours under reflux, 2 liters of water was added thereto followed by cooling. The precipitated crystals were filtered, washed with water and dried.

reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 69.5 g | Cl.NO
reactant | sodium hydrochloride ethanol water | 2N | C(C)O.Cl.[Na].O
reactant | ethyl benzoylacetate | 192 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 500 g | Cl | ClH
solvent | ethanol water | C(C)O.O
solvent | water | 2 liters | O | H2O
solvent | ethanol | 2.5 liters | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 5-Phenyl-3-hydroxyisoxazole | C1(=CC=CC=C1)C1=CC(=NO1)O | C9H7NO2
